US20010003121A1
2-Chloro-5-nitro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
Prepared according to the method of Example 14 from 1-adamantanemethylamine (1.0 g) and 2-chloro-5-nitrobenzoic acid (1.22 g) to give the title compound as a yellow solid (1.7 g).

reactant | 1-adamantanemethylamine | 1.0 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | 2-chloro-5-nitrobenzoic acid | 1.22 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | 2-Chloro-5-nitro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 1.7 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)[N+](=O)[O-] | C18H21ClN2O3
